US07115635B2
Synthesis of N-[1-(3,4-dichlorobenzyl)piperidin-4-yl]-[4-(6-carboxypyridin-2-yl)thiazol-2-ylthio]acetamide
N-[1-(3,4-Dichlorobenzyl)piperidin-4-yl]-[4-(6-methoxycarbonylpyridin-2-yl)thiazol-2-ylthio]acetamide (330 mg) was suspended in a mixed solvent of methanol (5 mL), tetrahydrofuran (5 mL) and 1 mol/L aqueous sodium hydroxide solution (1.2 mL), and the suspension was stirred at room temperature for 5 hrs. The reaction mixture was neutralized by adding 1 mol/L hydrochloric acid, and saturated brine was added. The mixture was extracted with chloroform, and the extract was dried. Then, the solvent was evaporated to give the title compound (314 mg) as a slightly yellow powder.

reactant | N-[1-(3,4-Dichlorobenzyl)piperidin-4-yl]-[4-(6-methoxycarbonylpyridin-2-yl)thiazol-2-ylthio]acetamide | 330 mg | ClC=1C=C(CN2CCC(CC2)NC(CSC=2SC=C(N2)C2=NC(=CC=C2)C(=O)OC)=O)C=CC1Cl | C24H24Cl2N4O3S2
reactant | methanol | 5 mL | CO | CH4O
reactant | sodium hydroxide | 1 mol/L, 1.2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | brine | [Cl-].[Na+].O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-[1-(3,4-dichlorobenzyl)piperidin-4-yl]-[4-(6-carboxypyridin-2-yl)thiazol-2-ylthio]acetamide | 314 mg | ClC=1C=C(CN2CCC(CC2)NC(CSC=2SC=C(N2)C2=NC(=CC=C2)C(=O)O)=O)C=CC1Cl | C23H22Cl2N4O3S2
